US07851473B2
(1) 2-(4-Fluorophenyl)-2-oxoethyl thiocyanate
A solution of 2-bromo-1-(4-fluorophenyl)ethanone (5.00 g, 23.0 mmol) and potassium thiocyanate (2.24 g, 23.0 mmol) in ethanol (50 ml) was stirred at 80° C. for 3 hours. After cooling to room temperature, water (60 ml) was poured into the reaction solution, and a crystal was separated by filtration, which was washed with 50% aqueous ethanol solution to give the desired product (3.71 g, 82.5%) as a solid.

reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 23.0 mmol, 5.00 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | potassium thiocyanate | 23.0 mmol, 2.24 g | [S-]C#N.[K+]
reactant | water | 60 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-Fluorophenyl)-2-oxoethyl thiocyanate | 3.71 g, 82.5% | FC1=CC=C(C=C1)C(CSC#N)=O | C9H6FNOS
